US04251658
Preparation of 3-chloro-6-(4-cyano-5-amino-1-pyrazolyl)pyridazine
A mixture of 4.35 g. (30 mmoles) of 3-chloro-6-pyridazinylhydrazine, 3.96 g. (30 mmoles) of ethoxymethylenemalononitrile and 60 ml. of ethanol is heated and refluxed for 2 hours. After cooling the separated crystals are filtered, washed with ethanol and dried. Yield: 5.85 g. (88.5%); m.p.: 250°-252° C.

reactant | 3-chloro-6-pyridazinylhydrazine | 30 mmoles | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | ethoxymethylenemalononitrile | 30 mmoles | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | C(C)O | C2H6O
product | 3-chloro-6-(4-cyano-5-amino-1-pyrazolyl)pyridazine | ClC=1N=NC(=CC1)N1N=CC(=C1N)C#N | C8H5ClN6
